US05041672
A reaction vessel was charged with 60 g of isopropyl alcohol, 50 g of water, 41.4 g of 2,5-dichloro-p-nitroaniline, 6 g of sodium hydroxide and 0.3 g of 1,4-naphthoquinone. The temperature of the mixture was controlled to be 75° to 80° C., and 22 g of an 80% solution of hydrazine hydrate in water was added dropwise to the mixture over 2 hours. After the addition, the reaction mixture was refluxed with stirring for 3 hours to complete the reaction. After cooling to 5° C., the reaction product was filtered, washed with water and dried, to give 32.2 g of 2,5-dichloro-p-phenylenediamine.

reactant | isopropyl alcohol | 60 g | C(C)(C)O | C3H8O
reactant | 2,5-dichloro-p-nitroaniline | 41.4 g | ClC1=C(N)C=C(C(=C1)[N+](=O)[O-])Cl | C6H4Cl2N2O2
reactant | sodium hydroxide | 6 g | [OH-].[Na+]
reactant | hydrazine hydrate | O.NN
solvent | water | O | H2O
catalyst | 1,4-naphthoquinone | 0.3 g | C1(C=CC(C2=CC=CC=C12)=O)=O | C10H6O2
solvent | water | 50 g | O | H2O
product | 2,5-dichloro-p-phenylenediamine | 32.2 g, Yield: 91% | ClC1=C(C=C(C(=C1)N)Cl)N | C6H6Cl2N2
